US05610144
The operation is carried out in a fashion similar to that described in Example 41, but starting from 0.2 g of 2-trimethylsilylethyl (2S,5R)-3-{3-{2-[2-tert-butoxycarbonyl-5-(3-indolyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoate and 1.0 cm3 of a 1M solution of tetrabutylammonium fluoride. The crude product is dissolved in 25 cm3 of ethyl acetate and extracted with 2 times 5 cm3 of a 0.1N aqueous sodium hydroxide solution. The aqueous phases are brought to a pH of 2 by addition of a 1N aqueous hydrochloric acid solution. The product precipitated is separated by filtration, washed with 2 times 5 cm3 of distilled water and dried in air. 0.12 g of (2S,5R)-3-{3-{2-[2-tert-butoxycarbonyl-5-(3-indolyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoic acid is thus obtained in the form of a solid melting at 160° C., [α]D20 =+10.7°±1.1° (C=0.43%; CH3OH), [proton NMR (300 MHz, DMSO D6, δ in ppm, J in Hz): 1.5 (s, 9H, --C(CH3)3 ; 1.8 to 2.5 (m, 4H, --CH2 =--CH2 --); 3.6 and 4.1 (2dd, J=17.5 and 5.1, 2H, N--CO--CH2 --N); 4.26 (dd, J=9 and 8, 1H, N--CH--COO--); 5.52 (d, J=8.5, 1H, N--CH--Ar); 6.38 (t, J=5, 1H, --NH--CO--); 7.0 to 7.7 (m, 7H, aromatic); 7.68 (s, 1H, N--CH=); 8 (bs, 1H in position 2 on NH--Ph--COO); 9.03 (broad, 1H, Ph--NH--CO--); 11.05 (broad, 1H, --NH--), an NOE effect has been observed between the N--CH= of indole and the proton in position 5 of pyrrolidine], [infrared spectrum (KBr), characteristic bands in cm-1 : 3380, 2980, 2935, 2700 to 2250 (broad band), 1720 to 1695 (broad band), 1635, 1595, 1560, 1490, 1460, 1370, 1155, 745, 685].

reactant | 2-trimethylsilylethyl (2S,5R)-3-{3-{2-[2-tert-butoxycarbonyl-5-(3-indolyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoate | 0.2 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](CC1)C1=CNC2=CC=CC=C12)C(CNC(NC=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1)=O)=O | C32H42N4O6Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 25 cm3 | C(C)(=O)OCC | C4H8O2
product | (2S,5R)-3-{3-{2-[2-tert-butoxycarbonyl-5-(3-indolyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoic acid | 0.12 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](CC1)C1=CNC2=CC=CC=C12)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C27H30N4O6
